US03960904
A solution of 10 parts of 3β-acetoxy-6-(bromomethyl)cholest-5-ene and 20 parts of bis(ethoxyethyl)amine in 13 parts of dichloromethane is allowed to stand at room temperatures for 24 hours, whereupon 5 volumes of water is introduced and the oil which separates is extracted with diethyl ether. The extract is washed with water, dried over anhydrous sodium sulfate, and stripped of solvent by vacuum distillation to give 3β-acetoxy-6-[di(2-ethoxyethyl)aminomethyl]cholest-5-ene as the residue. The product, an oil, has the formula ##SPC9##

reactant | 3β-acetoxy-6-(bromomethyl)cholest-5-ene | C(C)(=O)O[C@@H]1CC2=C(C[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)CBr | C30H49BrO2
reactant | bis(ethoxyethyl)amine | C(C)OCCNCCOCC | C8H19NO2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3β-acetoxy-6-[di(2-ethoxyethyl)aminomethyl]cholest-5-ene | C(C)(=O)O[C@@H]1CC2=C(C[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)CN(CCOCC)CCOCC | C38H67NO4
